US09284323B2
Preparation of 6-chloro-3-methylnaphthalen-1-ol:
A flask containing the crude ethyl 4-(3-chlorophenyl)-3-methylbut-2-enoate (˜25 grams) was treated with concentrated H2SO4 (120 mL) and warmed to 50° C. for 2.5 h. The reaction was poured onto ˜500 mL of crushed ice. Once the ice had melted, the brown suspension was extracted with two portions of EtOAc (500 mL and 100 mL, respectively). The two extracts were combined, washed with saturated aq. NaHCO3, dried (MgSO4), filtered, and concentrated to ˜55 mL. The residue was treated with DCM and loaded onto a silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product. 1H NMR (400 MHz, CDCl3) δ 8.07-8.05 (d, J=8.8 Hz, 1H), 7.69-7.68 (d, J=2.0 Hz, 1H), 7.35-7.32 (dd, J=2.0, 8.8 Hz, 1H); 7.12 (s, 1H); 6.65 (s, 1H); 5.21 (bs, 1H); 4.21-4.17 (dd, 2H); 2.41 (s, 3H).

reactant | ethyl 4-(3-chlorophenyl)-3-methylbut-2-enoate | ˜25 grams | ClC=1C=C(C=CC1)CC(=CC(=O)OCC)C | C13H15ClO2
reactant | H2SO4 | 120 mL | OS(=O)(=O)O | H2O4S
product | 6-chloro-3-methylnaphthalen-1-ol | ClC=1C=C2C=C(C=C(C2=CC1)O)C | C11H9ClO
